US06150373
A solution of 40 mg (0.96 mmol) of 3-(2,6-dichlorophenyl)-7-(4-methoxybenzyl)amino-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one in 5 ml of trifluoroacetic acid was heated at reflux for 5 hours. The mixture was evaporated and the residue was partitioned between 30 ml of ethyl acetate and 30 ml of 2M aqueous sodium hydroxide. The organic phase was dried over magnesium sulfate, filtered and evaporated and the residue was subjected to column chromatography on silica gel using dichloromethane/methanol (20:1) for the elution. Product-containing fractions were combined and evaporated to give 10 mg (27%) of 7-amino-3-(2,6-dichlorophenyl)-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point >300° C.

reactant | 3-(2,6-dichlorophenyl)-7-(4-methoxybenzyl)amino-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.96 mmol, 40 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NCC1=CC=C(C=C1)OC)C1=CC=CC=C1)=O | C26H21Cl2N5O2
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-amino-3-(2,6-dichlorophenyl)-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one | 10 mg, 27% | NC1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2Cl)Cl)=O)C2=CC=CC=C2 | C18H13Cl2N5O
